US07465742B2
3-Amino-2-carbamoyl-4-thiophen-2-yl-5,8-dihydro-6H-1-thia-7,9-diaza-cyclopenta[b]naphthalene-7-carboxylic acid tert-butyl ester (30)
To a mixture of 2-cyano-3-thiophen-2-yl-thioacrylamide (4.38 g, 22.5 mmol) and 1-boc-3-piperidone (4.49 g, 22.5 mmol) in 200 ml of anhydrous ethanol was added morpholine (3.94 g, 45 mmol) at room temperature with stirring. The resulting mixture was heated to reflux overnight. Then, 2-chloroacetamide (4.21 g, 45 mmol) and K2CO3 (6.23 g, 45 mmol) was added. The reaction mixture was continued to heat at 80° C. overnight. The solvent was removed in vacuo, and the residue was purified by silica gel column (chloroform/methanol, 40:1) and recrystallized from methanol to give a yellow crystalline product.

reactant | 2-cyano-3-thiophen-2-yl-thioacrylamide | 22.5 mmol, 4.38 g | C(#N)C(C(=S)N)=CC=1SC=CC1 | C8H6N2S2
reactant | 1-boc-3-piperidone | 22.5 mmol, 4.49 g | C(=O)(OC(C)(C)C)N1CC(CCC1)=O | C10H17NO3
reactant | morpholine | 45 mmol, 3.94 g | N1CCOCC1 | C4H9NO
reactant | 2-chloroacetamide | 45 mmol, 4.21 g | ClCC(=O)N | C2H4ClNO
reactant | K2CO3 | 45 mmol, 6.23 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-Amino-2-carbamoyl-4-thiophen-2-yl-5,8-dihydro-6H-1-thia-7,9-diaza-cyclopenta[b]naphthalene-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC=2C(=C3C(=NC2C1)SC(=C3N)C(N)=O)C=3SC=CC3 | C20H22N4O3S2
